US07585886B2
A 389 mg portion of the thus obtained (1R)-1-(1-naphthyl)-N-{[(3S,4S)-4-phenyl-1-(trifluoroacetyl)pyrrolidin-3-yl]methyl}ethanamine was dissolved in 5 ml of ethyl acetate and treated with a 4 M hydrogen chloride/ethyl acetate solution. The reaction solution was diluted with hexane, and the thus precipitated solid was recrystallized from ethyl acetate and hexane to obtain 268 mg of (1R)-1-(1-naphthyl)-N-{[(3S,4S)-4-phenyl-1-(trifluoroacetyl)pyrrolidin-3-yl]methyl}ethanamine hydrochloride as colorless crystals.

reactant | (1R)-1-(1-naphthyl)-N-{[(3S,4S)-4-phenyl-1-(trifluoroacetyl)pyrrolidin-3-yl]methyl}ethanamine | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(C(F)(F)F)=O | C25H25F3N2O
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | (1R)-1-(1-naphthyl)-N-{[(3S,4S)-4-phenyl-1-(trifluoroacetyl)pyrrolidin-3-yl]methyl}ethanamine hydrochloride | 268 mg | Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(C(F)(F)F)=O | InChI=1S/C25H25F3N2O.ClH/c1-17(21-13-7-11-18-10-5-6-12-22(18)21)29-14-20-15-30(24(31)25(26,27)28)16-23(20)19-8-3-2-4-9-19;/h2-13,17,20,23,29H,14-16H2,1H3;1H/t17-,20+,23-;/m1./s1
